US06340759B1
(233-1) 2-Fluoro-6-iodobenzaldehyde
2-Fluoro-6-iodobenzonitrile (10.274 g) was dissolved in toluene (100 ml), followed by the dropwise addition of 1.5M diisobutylaluminium hydride/toluene solution (31 ml) in nitrogen atmosphere at −70° C., and the mixture was stirred for 25 min. Subsequently, it was stirred at room temperature for further 45 min. To the mixture was added 5% sulfuric acid, and it was stirred for 1 hr. Sequentially, the resulting solution was extracted with ethyl acetate, and the resulting organic layer was washed with water, dried (over MgSO4) and evaporated. The resulting residue was purified by silica gel column chromatography (ethyl acetate/hexane system), to give the title compound as a yellow oil (8.683 g, yield; 83%).

reactant | 2-Fluoro-6-iodobenzonitrile | 10.274 g | FC1=C(C#N)C(=CC=C1)I | C7H3FIN
reactant | diisobutylaluminium hydride toluene | 1.5M, 31 ml | [H-].C(C(C)C)[Al+]CC(C)C.C1(=CC=CC=C1)C
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Fluoro-6-iodobenzaldehyde | 8.683 g, yield; 83% | FC1=C(C=O)C(=CC=C1)I | C7H4FIO
